### PR TITLE
feat(SimpleGraph): ext for walks based on `getVert` and `support`

### PR DESCRIPTION
**Pull request by Rida-Hamadani**
Two walks are the same if they agree under `getVert` or `support`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 1]
```diff
@@ -1091,6 +1091,35 @@ theorem exists_boundary_dart {u v : V} (p : G.Walk u v) (S : Set V) (uS : u ∈
...
+      have h₁ := h 1
+      rw [getVert_cons_succ, getVert_zero] at h₁
+      specialize ih (q := (cons hb q).tail.copy h₁.symm rfl)
+      simp only [getVert_copy, getVert_tail] at ih
+      specialize ih fun k ↦ by
+        rw [getVert_cons_succ]
+        specialize h (k + 1)
+        rwa [getVert_cons_succ, getVert_cons_succ] at h
+      simp [ih]
+
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean]:
```suggestion
lemma ext_getVert {u v} {p q : G.Walk u v} (hl : p.length = q.length)
    (h : ∀ k ≤ p.length, p.getVert k = q.getVert k) :
    p = q := by
  generalize hp : p.length = n at *
  rw [eq_comm] at hl
  induction n generalizing u with
  | zero =>
    cases eq_of_length_eq_zero hp
    simp_all [length_eq_zero_iff]
  | succ n ih =>
    match p, hp, q, hl with
    | cons x p, hp, cons y q, hq =>
      obtain rfl := by simpa using h 1
      simp only [cons.injEq, heq_eq_eq, true_and]
      simp only [length_cons, Nat.add_right_cancel_iff] at hp hq
      apply ih hp hq
      intro k
      simpa using h (k + 1)

lemma ext_getVert' {u v} {p q : G.Walk u v} (h : ∀ k, p.getVert k = q.getVert k) :
    p = q := by
  wlog hpq : p.length ≤ q.length generalizing p q
  · exact (this (fun k ↦ (h k).symm) (le_of_not_ge hpq)).symm
  have : q.length ≤ p.length := by
    by_contra!
    exact (q.adj_getVert_succ this).ne (by simp [← h, getVert_of_length_le])
  exact ext_getVert (hpq.antisymm this) fun k _ ↦ h k
```
You can make the lemma a little more useful by not assuming anything for vertices outside the walk, then use that to prove the original. It's not entirely clear to me which of these is the "better" `ext` lemma, so I'd suggest making neither of them `[ext]`.

I also notice we don't seem to have a lemma like this for `support`, ie that the function taking a walk to its support is injective, perhaps you'd like to add that?

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: (The motivation for the last comment is that you could use something like `getVert_eq_support_get?` and list extensionality to prove this instead, although I'm not sure if that's simpler)

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: nice idea, I'll try that!

Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: If it turns out to not be simpler (or just annoying to prove) then you could also just take the above proof and keep it as is!

Comment (Rida-Hamadani) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: Done!
To avoid primed lemma, I propose the name `ext_getVert_le_length` for the first lemma.
